US08022062B2
1-(3-Bromo-propyl)-3-methyl-1,3-dihydro-benzoimidazol-2-one
Add portion wise 3-methyl-1,3-dihydro-benzoimidazol-2-one (400 mg, 27.0 mmol) to a suspension of sodium hydride (1.296 g, 32.4 mmol of 60% dispersion in oil) in anhydrous THF (200 mL) under nitrogen over 15 min, then continue to stir for 30 min. Add 1,3-dibromopropane (11.0 mL, 108 mmol) and stir overnight. Then heat at reflux for 3 days. Cool the suspension to room temperature, pour into brine (400 mL), extract with diethyl ether (300 mL), dry over MgSO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with isohexane/EtOAc (1:0 to 1:1 gradient over 40 min) to give the title compound as a colourless oil (2.15 g, 30%).

reactant | 3-methyl-1,3-dihydro-benzoimidazol-2-one | 27.0 mmol, 400 mg | CN1C(NC2=C1C=CC=C2)=O | C8H8N2O
reactant | sodium hydride | 32.4 mmol, 1.296 g | [H-].[Na+]
reactant | 1,3-dibromopropane | 108 mmol, 11.0 mL | BrCCCBr | C3H6Br2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | brine | 400 mL | [Cl-].[Na+].O
product | 1-(3-Bromo-propyl)-3-methyl-1,3-dihydro-benzoimidazol-2-one | 2.15 g, 30% | BrCCCN1C(N(C2=C1C=CC=C2)C)=O | C11H13BrN2O
